Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
HTN/back pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
CC: HTN and nausea

HPI: 

Ms. ___ is a ___ female with the past medical history 
of
HTN and chronic back pain who presents with nausea and HTN. 

History obtained with assistance of interpreter. Pt states that
she has had nausea of the past 2 days, without vomiting. She has
no abdominal pain, fevers, chills, SOB, CP, or dysuria. She
states that she has urinary frequency and incontinence at
baseline, but no change in this recently. She states that she
took her BP at home and was SBP >170 with normal DBP. Because of
this she took two doses of her losartan (100mg instead of 50mg)
and presented to the ED.

She states that she has chronic back pain and follows with pain
management at ___ and gets ESI. She yesterday, she has had 
more
left sided back pain which feels similar to her chronic back 
pain
but slightly worse because she slept on it "strangely". It is 
now
back at baseline.

In the ED, initial vitals 
98.1 66 164/64 18 98% RA. Labs showed Na 126, K 3.2, Mg 1.3, UA
with mod leuk, pos nit, 17 WBC, and few bactermia. Trop x1 neg.
CXR with no focal consolidations, with mild pulmonary vascular
congestion. She was given IV CTX, IV Mg, 20mEq Kcl, neutraphos,
APAP, IV Compazine, and lidocaine patch.  

On arrival to the floor, pt reported the above history with
assistance of telephone interpreter. She added that she was
recently diagnosed with eye infection for which she is on PO
valacyclovir and multiple eye drops. She reports that her nausea
is currently improved. She had no other complaints.
 
ROS: Pertinent positives and negatives as noted in the HPI. 
Otherwise a 10-point ROS was reviewed and is negative.

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
lower back pain
HTN
recent R eye infection
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
ADMISSION EXAM
VITALS: 24 HR Data (last updated ___ @ 931)
Temp: 98.1 (Tm 98.1), BP: 149/47, HR: 63, RR: 17, O2 sat: 96%, 
O2
delivery: ra  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, no conjunctival injection, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
Dry MM.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended in all quadrants, non-tender to
palpation.  No rebound or guarding.
BACK: no CVA tenderness
GU: No suprapubic fullness or tenderness to palpation.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: No rashes or ulcerations noted.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate mood and affect

DISCHARGE EXAM
AVSS, BP 130s systolic, HR ___
NAD, NCAT, MMM
RRR, JVP 8cm
CTAB
sntnd
neg CVAT
wwp, neg edema
A&Ox3, CN II-XII intact, ___ BUE/BLE, SILT BUE/BLE, DOWB intact, 
downgoing toes bilaterally
no rash
 
Pertinent Results:
ADMISSION RESULTS

___ 03:00PM   cTropnT-<0.01
___ 06:35AM   WBC-5.8 RBC-3.78* HGB-12.2 HCT-34.8 MCV-92 
MCH-32.3* MCHC-35.1 RDW-13.9 RDWSD-47.3*
___ 05:55AM   GLUCOSE-103* UREA N-12 CREAT-0.6 SODIUM-126* 
POTASSIUM-3.2* CHLORIDE-86* TOTAL CO2-25 ANION GAP-15
___ 05:55AM   ALT(SGPT)-12 AST(SGOT)-17 ALK PHOS-78 TOT 
BILI-0.5
___ 05:55AM   LIPASE-34
___ 05:55AM   cTropnT-<0.01
___ 05:55AM   ALBUMIN-4.1 CALCIUM-9.9 PHOSPHATE-2.3* 
MAGNESIUM-1.3*
___ 05:55AM URINE  BLOOD-NEG NITRITE-POS* PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-MOD*
___ 05:55AM URINE  RBC-1 WBC-17* BACTERIA-FEW* YEAST-NONE 
EPI-<1

=========
IMAGING AND PERTINENT INTERVAL RESULTS

EKG sinus 57. Qtc 456. V1 and V2 with 1mm STE seen on prior
likely due to repol. Consistent with prior.

CXR
IMPRESSION:
 
 
1. No focal consolidations.
2. Minor edema, with new subsegmental atelectasis at the lung 
bases..

UCx: 100k GNRs, id/sensis pending

=========
DISCHARGE RESULTS
___ 07:16AM BLOOD WBC-4.6 RBC-3.79* Hgb-12.2 Hct-35.4 
MCV-93 MCH-32.2* MCHC-34.5 RDW-14.5 RDWSD-49.5* Plt ___
___ 07:16AM BLOOD Glucose-83 UreaN-13 Creat-0.7 Na-131* 
K-4.1 Cl-93* HCO3-24 AnGap-14
___ 07:16AM BLOOD Calcium-9.1 Phos-2.5* Mg-2.___ female with PMHx of nausea, HTN who presents with 
nausea and elevated BP. Found to have a possible UTI with 
hypovolemic hyponatremia.

ACUTE/ACTIVE PROBLEMS:
#UTI with
#nausea:
Patient presents with 2d of nausea and with infectious workup 
revealing for UTI. Nausea concerning for possible pyelo however 
no fevers, leukocytosis, CVA tenderness at this time. Received 
IV CTX in ED, ___, discharged on ciprofloxacin for 3 
more days to start ___ empirically. No history of resistant 
organisms as far as can be seen and per her. 

# hyponatremia: Na 126, was 141 one month ago. Most likely 
hypovolemic in setting of nausea, infection. Hypokalemia also 
suggests poor PO intake as well as possible thiazide effect. 
Held home indapamide. Received gentle IVF and Na went from 126 
to 131 within 24h. Expect continued further improvement.  

#hypokalemia: likely due to poor PO intake in setting of ongoing 
thiazide diuretic use. Repleted K and held home indapamide. 
Resolved. 

#HTN: Pt with elevated BP at home, currently improved. Possibly 
in setting of increased LBP (now resolved) and nausea. Held 
indapamide as above, continued home dilt/losartan and had good 
control.

# hypophos: repleted, improved but not resolved. 

CHRONIC/STABLE PROBLEMS:
# lower back pain: stable. Patient reports it is at baseline and 
unchanged. She had no neurologic findings or symptoms. She did 
report a fall a month prior, not on her back. She did not have 
any point tenderness but it was thought best to pursue xray to 
r/o fracture, but she refused. Continued home tramadol and will 
have outpatient follow up at ___ for ESI.

#recent R eye ulcer/infection: continued eye drops and 
valcyclovir (pt has with her).

>30 minutes spent on care and coordination on day of discharge.

TRANSITIONAL ISSUES
- patient will follow up with PCP ___ ___ to have BP checked and 
repeat Na to ensure resolution without overly rapid correction 
(above discussed with PCP by this writer)
- suggest checking Na, K, phos at that time
- holding home indapamide; consider resuming pending labs and po 
intake
- this writer will contact PCP if urine cx sensis do not match 
with empiric treatment (discussed with PCP)
- contact: Daughter ___ ___
- Code Status/ACP: full presumed 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
2. Diltiazem Extended-Release 120 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. moxifloxacin 0.5 % ophthalmic (eye) q3h 
5. Ganciclovir 0.15% Ophth Gel 1 DROP RIGHT EYE 5X/DAY 
6. ValACYclovir 500 mg PO Q8H 
7. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE 5 X PER 
DAY 
8. Indapamide 2.5 mg PO DAILY 
9. Lubricant Eye Drops (carboxymethylcellulose sodium) 0.5 % 
ophthalmic (eye) 5 times per day 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 6 Doses 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
2.  Diltiazem Extended-Release 120 mg PO DAILY  
3.  Ganciclovir 0.15% Ophth Gel 1 DROP RIGHT EYE 5X/DAY  
4.  Losartan Potassium 50 mg PO DAILY  
5.  Lubricant Eye Drops (carboxymethylcellulose sodium) 0.5 % 
ophthalmic (eye) 5 times per day  
6.  moxifloxacin 0.5 % ophthalmic (eye) q3h  
7.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE 5 X 
PER DAY  
8.  TraMADol 50 mg PO Q8H:PRN Pain - Moderate  
9.  ValACYclovir 500 mg PO Q8H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hypovolemia
hyponatremia
hypertension
chronic sciatica

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___ was a pleasure caring for you. 
You were admitted for nausea and high blood pressure.
We found your sodium level was low. We think this was caused by 
dehydration and your indapamide. We gave you fluids and held 
your indapamide and your sodium got better. We anticipate it 
will continue to get better but recommend labs be drawn tomorrow 
with the results followed up by your PCP to ensure your labs go 
back to normal and your blood pressure is okay. Go to your PCP's 
office after 10am tomorrow and you can be seen and get labs.
We are also treating you for a urinary tract infection. We are 
not yet sure of what antibiotic to send you out on because the 
cultures are not finalized but you will be contacted by your PCP 
if antibiotics need to be changed. 
We wish you the best in your recovery.
 
Followup Instructions:
___